US08957069B2
5-[4-(4-methoxyphenyl)-1,4-diazepan-1-yl]-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one
Bis(tri-tert-butylphosphine)palladium (20.0 mg, 0.0387 mmol) and sodium tert-butoxide (500 mg, 5.16 mmol) were added to a solution of o-xylene (20 mL) containing 5-(1,4-diazepan-1-yl)-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one synthesized in Reference Example 63, and the mixture was stirred under argon atmosphere at 120° C. for 12 hours. After cooled to room temperature, the mixture was diluted with water and extracted using ethyl acetate. It was dried using anhydrous magnesium sulfate. After that, the solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate 100:0 to 90:10) to give 240 mg of the title compound (yield: 45%).

reactant | sodium tert-butoxide | 5.16 mmol, 500 mg | CC(C)([O-])C.[Na+]
reactant | o-xylene | 20 mL | CC=1C=CC=CC1C | C8H10
reactant | 5-(1,4-diazepan-1-yl)-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | N1(CCNCCC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C18H26N2O2
solvent | water | O | H2O
catalyst | Bis(tri-tert-butylphosphine)palladium | 0.0387 mmol, 20.0 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 5-[4-(4-methoxyphenyl)-1,4-diazepan-1-yl]-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | 240 mg, yield: 45% | COC1=CC=C(C=C1)N1CCN(CCC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C25H32N2O3
